US06768008B2
A stirred mixture of N-benzoyl-L-serine methyl ester (21.0 g), thionyl chloride (21.0 g), and methylene chloride (150 ml) is stirred at reflux for 1 hour. The solvent is evaporated and the residue is diluted with cold water. Neutralize with sodium bicarbonate, and extract with ethyl acetate. Purification on silica gel (250 g), eluting with methanol:methylene chloride (01:99), yields methyl (S)-2-phenyl-2-oxazoline-4-carboxylate (15.2 g).

reactant | N-benzoyl-L-serine methyl ester | 21.0 g | COC([C@@H](NC(C1=CC=CC=C1)=O)CO)=O | C11H13NO4
reactant | thionyl chloride | 21.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | methyl (S)-2-phenyl-2-oxazoline-4-carboxylate | 15.2 g | C1(=CC=CC=C1)C=1OC[C@H](N1)C(=O)OC | C11H11NO3
